US04258052
Synthesis of 6-Acetylamino nicotinamide
6-Amino nicotinamide 13.7 g (0.1 mole) is dissolved in 100 ml of dimethylsulfoxide and acetic anhydride 14.2 ml (0.15 mole) is added to the above solution. The mixture is stirred at room temperature for 16 hours. White crystals which are formed during the reaction are isolated by filtration and are purified by washing with 0.2 N HCl and ethanol. 6-Acetylamino nicotinamide 9.5 g thus synthesized is practically pure as shown by infrared spectroscopy and thin-layer chromatography.

reactant | 6-Amino nicotinamide | 0.1 mole, 13.7 g | NC1=NC=C(C(=O)N)C=C1 | C6H7N3O
reactant | acetic anhydride | 0.15 mole, 14.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 6-Acetylamino nicotinamide | C(C)(=O)NC1=NC=C(C(=O)N)C=C1 | C8H9N3O2
